US07417169B2
4-Carboxymethoxy-3-ethoxyphenylboronic acid
A 2 mol/L aqueous solution of sodium hydroxide (2.14 mL) was added to a solution of ethyl[2-ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate (0.15 g) in ethanol (10 mL), and the resulting mixture was stirred at 60° C. for 3 hrs. Water and ethyl acetate were added to the reaction mixture. The aqueous layer was separated, washed with ethyl acetate, made acidic with the addition of 2 mol/L hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (0.066 g).

reactant | sodium hydroxide | 2.14 mL | [OH-].[Na+]
reactant | ethyl[2-ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate | 0.15 g | C(C)OC(COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OCC)=O | C18H27BO6
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Carboxymethoxy-3-ethoxyphenylboronic acid | 0.066 g | C(=O)(O)COC1=C(C=C(C=C1)B(O)O)OCC | C10H13BO6
